### PR TITLE
[Merged by Bors] - feat(Nat/Nth): inequalities about Nat.nth

### PR DESCRIPTION
**Pull request by ChrisHughes24**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Nth.lean [hunk 1]
```diff
@@ -276,6 +276,64 @@ lemma nth_mem_anti {a b : ℕ} (hab : a ≤ b) (h : p (nth p b)) : p (nth p a) :
...
+      · intro k hk
+        refine lt_of_le_of_lt (ih k hk (fun hf => lt_trans hk (hn hf))) ?_
+        rwa [hmono.lt_iff_lt (fun hf => lt_trans hk (hn hf)) hn]
+  · simp only [not_forall, not_lt] at hn
+    rcases hn with ⟨hf, hn⟩
+    rw [nth, dif_pos hf, List.getD_eq_default _ _ (by simp [hn])]
+    exact Nat.zero_le _
+
+/-- `Nat.nth p` is the greatest monotone function whose image contains `setOf p` -/
+lemma le_nth_of_MonotoneOn_of_surjOn {p : ℕ → Prop} (f : ℕ → ℕ)
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Nth.lean]:
```suggestion
lemma le_nth_of_monotoneOn_of_surjOn {p : ℕ → Prop} (f : ℕ → ℕ)
```

File: Mathlib/Data/Nat/Nth.lean [hunk 2]
```diff
@@ -276,6 +276,64 @@ lemma nth_mem_anti {a b : ℕ} (hab : a ≤ b) (h : p (nth p b)) : p (nth p a) :
...
+
+/-- `Nat.nth p` is the unique strictly monotone function whose image is `setOf p` -/
+lemma eq_nth_of_strictMonoOn_of_mapsTo_of_surjOn {p : ℕ → Prop} (f : ℕ → ℕ)
+    (hsurj : Set.SurjOn f { n : ℕ | ∀ hf : Set.Finite (setOf p), n < hf.toFinset.card } (setOf p))
+    (hmaps: Set.MapsTo f { n : ℕ | ∀ hf : Set.Finite (setOf p), n < hf.toFinset.card } (setOf p))
+    (hmono : StrictMonoOn f { n : ℕ | ∀ hf : Set.Finite (setOf p), n < hf.toFinset.card }) :
+    Set.EqOn f (nth p) {n : ℕ | ∀ hf : Set.Finite (setOf p), n < hf.toFinset.card} := by
+  intro i hi
+  exact le_antisymm
+    (Nat.le_nth_of_MonotoneOn_of_surjOn _ hsurj hmono.monotoneOn hi)
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Nth.lean]:
```suggestion
    (Nat.le_nth_of_monotoneOn_of_surjOn _ hsurj hmono.monotoneOn hi)
```

**Review by ChrisHughes24 — COMMENTED** [review]
Capitalization

File: Mathlib/Data/Nat/Nth.lean [hunk 3]
```diff
@@ -275,6 +275,57 @@ lemma nth_mem_anti {a b : ℕ} (hab : a ≤ b) (h : p (nth p b)) : p (nth p a) :
...
+  | zero =>
+    rw [Nat.nth_zero]
+    refine le_csInf ⟨_, nth_mem _ hn⟩ fun b hb => ?_
+    rcases hsurj hb with ⟨k, hk, rfl⟩
+    exact hmono hn hk (Nat.zero_le _)
+  | succ n ih =>
+    rw [nth_eq_sInf]
+    refine le_csInf ?_ ?_
+    · use nth p (n + 1), nth_mem _ hn
+      exact fun k hk => nth_lt_nth' hk hn
```
Comment (pechersky) [inline Mathlib/Data/Nat/Nth.lean:315]: @JovanGerb @YaelDillies  does it make sense to tag `nth_lt_nth'` and `nth_le_nth'` with gcongr? What's the guidance for gcongr attributes when there is a side condition?

File: Mathlib/Data/Nat/Nth.lean [hunk 4]
```diff
@@ -275,6 +275,57 @@ lemma nth_mem_anti {a b : ℕ} (hab : a ≤ b) (h : p (nth p b)) : p (nth p a) :
...
+    (hmaps : Set.MapsTo f { n : ℕ | ∀ hf : Set.Finite (setOf p), n < hf.toFinset.card } (setOf p))
+    (hmono : StrictMonoOn f { n : ℕ | ∀ hf : Set.Finite (setOf p), n < hf.toFinset.card }) {n : ℕ} :
+    nth p n ≤ f n := by
+  by_cases hn : (∀ hf : Set.Finite (setOf p), n < hf.toFinset.card)
+  · induction n using Nat.strong_induction_on with
+    | _ n ih =>
+      rw [nth_eq_sInf]
+      refine csInf_le (by simp) ⟨hmaps hn, fun k hk => ?_⟩
+      refine lt_of_le_of_lt (ih k hk (fun hf => lt_trans hk (hn hf))) ?_
+      rwa [hmono.lt_iff_lt (fun hf => lt_trans hk (hn hf)) hn]
```
Comment (pechersky) [inline Mathlib/Data/Nat/Nth.lean]:
```suggestion
  · induction n using Nat.strong_induction_on with | _ n ih =>
    rw [nth_eq_sInf]
    refine csInf_le (by simp) ⟨hmaps hn, fun k hk => ?_⟩
    have : f k < f n := by apply hmono <;> grind
    grind
```

File: Mathlib/Data/Nat/Nth.lean [hunk 5]
```diff
@@ -275,6 +275,57 @@ lemma nth_mem_anti {a b : ℕ} (hab : a ≤ b) (h : p (nth p b)) : p (nth p a) :
...
+    refine le_csInf ?_ ?_
+    · use nth p (n + 1), nth_mem _ hn
+      exact fun k hk => nth_lt_nth' hk hn
+    rintro b ⟨hb, h⟩
+    have fnb : f n < b := lt_of_le_of_lt (ih (fun hf => Nat.lt_of_succ_lt (hn hf)))
+      (h n (Nat.lt_succ_self _))
+    rcases hsurj hb with ⟨m, hm, rfl⟩
+    apply hmono hn hm
+    rw [Nat.succ_le]
+    exact hmono.reflect_lt (fun hf => Nat.lt_of_succ_lt (hn hf)) hm fnb
```
Comment (pechersky) [inline Mathlib/Data/Nat/Nth.lean]:
```suggestion
    rintro b ⟨hb, h⟩
    rcases hsurj hb with ⟨m, hm, rfl⟩
    apply hmono hn hm
    rw [Nat.succ_le]
    apply hmono.reflect_lt <;> grind
```

File: Mathlib/Data/Nat/Nth.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/Nat/Nth.lean:315]: I think it makes sense, and no there is no specific guidance for side conditions

Comment (JovanGerb) [reply Mathlib/Data/Nat/Nth.lean:315]: Exactly. The tactics `grw` and `gcongr` will leave the side condition as a new (side) goal when using this lemma.

Comment (JovanGerb) [reply Mathlib/Data/Nat/Nth.lean:315]: (And it should probably close the side goal automatically if the right hypothesis exists in the local context)

**Comment by ChrisHughes24** [comment]
-awaiting-author

File: Mathlib/Data/Nat/Nth.lean [hunk 6]
```diff
@@ -275,6 +275,54 @@ lemma nth_mem_anti {a b : ℕ} (hab : a ≤ b) (h : p (nth p b)) : p (nth p a) :
     rw [ha0]
     rwa [hb0] at h
 
+/-- `Nat.nth p` is the least strictly monotone function whose image is contained in `setOf p` -/
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Nth.lean:284]: nit:
```suggestion
/-- `Nat.nth p` is the least strictly monotone function whose image is contained in `setOf p`. -/
```
Same below

File: Mathlib/Data/Nat/Nth.lean [hunk 7]
```diff
@@ -275,6 +275,54 @@ lemma nth_mem_anti {a b : ℕ} (hab : a ≤ b) (h : p (nth p b)) : p (nth p a) :
...
+lemma nth_le_of_strictMonoOn_of_mapsTo {p : ℕ → Prop} (f : ℕ → ℕ)
+    (hmaps : Set.MapsTo f { n : ℕ | ∀ hf : Set.Finite (setOf p), n < hf.toFinset.card } (setOf p))
+    (hmono : StrictMonoOn f { n : ℕ | ∀ hf : Set.Finite (setOf p), n < hf.toFinset.card }) {n : ℕ} :
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Nth.lean:287]: This is a weird spelling for
```suggestion
    (hmaps : Set.MapsTo f { n : ℕ | n < {x | p x}.encard } (setOf p))
    (hmono : StrictMonoOn f { n : ℕ | n < {x | p x}.encard }) {n : ℕ} :
```
right? What's the reason you are using it?

Comment (ChrisHughes24) [reply Mathlib/Data/Nat/Nth.lean:287]: It is used elsewhere in the file e.g. in 

```
theorem nth_mem (n : ℕ) (h : ∀ hf : (setOf p).Finite, n < #hf.toFinset) : p (nth p n) :=
  (setOf p).finite_or_infinite.elim (fun hf => nth_mem_of_lt_card hf (h hf)) fun h =>
    nth_mem_of_infinite h n

theorem nth_lt_nth' {m n : ℕ} (hlt : m < n) (h : ∀ hf : (setOf p).Finite, n < #hf.toFinset) :
    nth p m < nth p n :=
  (setOf p).finite_or_infinite.elim (fun hf => nth_lt_nth_of_lt_card hf hlt (h _)) fun hf =>
    (nth_lt_nth hf).2 hlt

theorem nth_le_nth' {m n : ℕ} (hle : m ≤ n) (h : ∀ hf : (setOf p).Finite, n < #hf.toFinset) :
    nth p m ≤ nth p n :=
  (setOf p).finite_or_infinite.elim (fun hf => nth_le_nth_of_lt_card hf hle (h _)) fun hf =>
    (nth_le_nth hf).2 hle

theorem le_nth {n : ℕ} (h : ∀ hf : (setOf p).Finite, n < #hf.toFinset) : n ≤ nth p n :=
  (setOf p).finite_or_infinite.elim
    (fun hf => ((nth_strictMonoOn hf).mono <| Set.Iic_subset_Iio.2 (h _)).Iic_id_le _ le_rfl)
    fun hf => (nth_strictMono hf).id_le _

theorem isLeast_nth {n} (h : ∀ hf : (setOf p).Finite, n < #hf.toFinset) :
    IsLeast {i | p i ∧ ∀ k < n, nth p k < i} (nth p n) :=
  ⟨⟨nth_mem n h, fun _k hk => nth_lt_nth' hk h⟩, fun _x hx =>
    let ⟨k, hk, hkx⟩ := exists_lt_card_nth_eq hx.1
    (lt_or_ge k n).elim (fun hlt => absurd hkx (hx.2 _ hlt).ne) fun hle => hkx ▸ nth_le_nth' hle hk⟩

theorem isLeast_nth_of_lt_card {n : ℕ} (hf : (setOf p).Finite) (hn : n < #hf.toFinset) :
    IsLeast {i | p i ∧ ∀ k < n, nth p k < i} (nth p n) :=
  isLeast_nth fun _ => hn
```

File: Mathlib/Data/Nat/Nth.lean (hunk 6 above)
Comment (ChrisHughes24) [reply Mathlib/Data/Nat/Nth.lean:284]: done

**Comment by ChrisHughes24** [comment]
-awaiting-author

**Comment by pechersky** [comment]
Thanks! maintainer merge

**Comment by pechersky** [comment]
maintainer merge

File: Mathlib/Data/Nat/Nth.lean (hunk 7 above)
Comment (ocfnash) [reply Mathlib/Data/Nat/Nth.lean:287]: I agree that we should opt for local consistency for now but I think we should plan for a future in which the spelling Yaël highlights comes to exist. How about we add a comment at the top of the file along the lines of:
```
## Implementation details

Much of the below was written before `Set.encard` existed and partly for this reason uses the
pattern `∀ hf : Set.Finite (setOf p), n < hf.toFinset.card` rather than `n < {x | p x}.encard`.
We should consider changing this.
```
I note there is already a paragraph (`There has been some discussion ...`) which would also naturally fit into this new section.

**Review by ocfnash — APPROVED** [review]
One suggestion but otherwise LGTM.

bors d+

**Comment by ChrisHughes24** [comment]
bors merge
